US09278944B2
To a solution of tert-butyl 1H-pyrrolo[3,2-c]pyridine-6-carboxylate (2.0 g) in N,N-dimethylformamide (15 mL) was added drop by drop 60% oil-based sodium hydride (385 mg) under ice-cooling, and then the mixture was stirred at room temperature for 15 minutes. Then, thereto was added dropwise a solution of 1-bromo-3-methoxypropane (1.47 g) in N,N-dimethylformamide (5 mL) under ice-cooling, and then the mixture was stirred at room temperature for 18 hours. To the reaction mixture was added water under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1) to give tert-butyl 1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate [REx(25-1)] (2.52 g) as a yellow oil.

reactant | tert-butyl 1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 2.0 g | N1C=CC=2C=NC(=CC21)C(=O)OC(C)(C)C | C12H14N2O2
reactant | sodium hydride | 385 mg | [H-].[Na+]
reactant | 1-bromo-3-methoxypropane | 1.47 g | BrCCCOC | C4H9BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl 1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 2.52 g | COCCCN1C=CC=2C=NC(=CC21)C(=O)OC(C)(C)C | C16H22N2O3
